US08580762B2
Step 5: Synthesis of 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine
((3aR,4R,6R,6aS)-6-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methanol (2.68 g, 8.28 mmol) was dissolved in THF (32 mL), treated with PPh3 (3.05 g, 11.6 mmol), and the reaction vessel was cooled in an ice-brine bath. Diisopropyl azodicarboxylate[DIAD] (2.3 mL, 12 mmol) was added dropwise via syringe and the mixture was stirred for 10 min. A solution of diphenylphosphonic azide [DPPA] (2.50 mL, 11.6 mmol) in THF (7.8 mL) was added dropwise via syringe to afford a off-white mixture, which was stirred for 21 h, allowing the ice bath to warm to RT; HPLC/LC MS indicated complete consumption of starting material and formation of product. At 22.5 h the reaction mixture was concentrated in vacuo and purified by column chromatography (4×22 cm silica; 0-25% EtOAc/Hex) to afford the title compound (2.27 g, 78%) as a clear, colorless oil: MS (ESI+) for C15H17ClN6O2 m/z 349.2 (M+H)+; MS (ESI−) for C15H17ClN6O2 m/z 393.2 (M+HCO2)−; HPLC purity >95% (ret. time, 4.169 min).

reactant | ((3aR,4R,6R,6aS)-6-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methanol | 8.28 mmol, 2.68 g | ClC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]([C@@H]1[C@H]2OC(O1)(C)C)CO | C15H18ClN3O3
reactant | PPh3 | 11.6 mmol, 3.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diphenylphosphonic azide | 11.6 mmol, 2.50 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | THF | 7.8 mL | C1CCOC1 | C4H8O
product | 7-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 2.27 g, 78% | N(=[N+]=[N-])C[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1Cl | C15H17ClN6O2
